US06069151
2-(8-Methoxy-2-trifluoromethylquinolin-5-yl)-1H-benzimidazole-5-carboxamide
Ammonia (0.5M in 1,4-dioxane, 3.9 ml) was added to a stirred solution of 2-(8-methoxy-2-trifluoromethylquinolin-5-yl)-1H-benzimidazole-5-carboxylic acid (0.15 g) in 1,4-dioxane (30 ml) at room temperature under an inert atmosphere. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.11 g) was added followed by 4-dimethylaminopyridine (36 mg) and the reaction stirred at room temperature overnight. The solvent was removed in vacuo and the residue partitioned between ethyl acetate (2×40 ml) and water (50 ml). The combined organic phases were dried over magnesium sulphate and preadsorbed onto silica in vacuo. Purification by column chromatography eluting with 10% methanol in ethyl acetate afforded the title compound as a cream solid (20 mg).

reactant | Ammonia | 0.5M, 3.9 ml | N | H3N
reactant | 2-(8-methoxy-2-trifluoromethylquinolin-5-yl)-1H-benzimidazole-5-carboxylic acid | 0.15 g | COC=1C=CC(=C2C=CC(=NC12)C(F)(F)F)C1=NC2=C(N1)C=CC(=C2)C(=O)O | C19H12F3N3O3
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.11 g | Cl.CN(CCCN=C=NCC)C
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | 4-dimethylaminopyridine | 36 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(8-Methoxy-2-trifluoromethylquinolin-5-yl)-1H-benzimidazole-5-carboxamide | 20 mg | COC=1C=CC(=C2C=CC(=NC12)C(F)(F)F)C1=NC2=C(N1)C=CC(=C2)C(=O)N | C19H13F3N4O2
